US05599966
16. Benzyl[6-(2-hydroxy-2-phenylethylamino)]hexanoate
According to method I (tetrahydrofuran, reflux 4 days) from benzyl 6-bromohexanoate and 2-amino-1-phenylethanol. Working up by means of chromatography (ethyl acetate/methanol/triethylamine 3:1:0.1). Melting point: 77°-78° C.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | benzyl 6-bromohexanoate | BrCCCCCC(=O)OCC1=CC=CC=C1 | C13H17BrO2
reactant | 2-amino-1-phenylethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
solvent | ethyl acetate methanol triethylamine | C(C)(=O)OCC.CO.C(C)N(CC)CC
product | Benzyl[6-(2-hydroxy-2-phenylethylamino)]hexanoate | C(C1=CC=CC=C1)OC(CCCCCNCC(C1=CC=CC=C1)O)=O | C21H27NO3
